US09283224B2
Step 9: 5-(Pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile
To a suspension of 2-(5-chloro-2-methyl-phenyl)-5-((E)-3-dimethylamino-acryloyl)-1H-pyrrole-3-carbonitrile (313 mg, 1.0 mmol) in DMF (5 mL) was added formamidine acetate (208 mg, 2.0 mmol). The mixture was heated to 150° C. for 5 h under efficient stirring. The resulting mixture was diluted by dropwise addition of water and extracted with EtOAc.

reactant | 2-(5-chloro-2-methyl-phenyl)-5-((E)-3-dimethylamino-acryloyl)-1H-pyrrole-3-carbonitrile | 1.0 mmol, 313 mg | ClC=1C=CC(=C(C1)C=1NC(=CC1C#N)C(\C=C\N(C)C)=O)C | C17H16ClN3O
reactant | formamidine acetate | 2.0 mmol, 208 mg | C(C)(=O)O.C(=N)N
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(Pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carbonitrile | N1=CN=C(C=C1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C#N | C16H11ClN4
